US05750213
First, 3.3 g of 2,3-difluoro-4'-[8,8-bis(6-benzyloxyhexyl)-6-octene-1-yl]oxybiphenyl, 1 g of 10% Pd-C, and 100 ml of tetrahydrofuran were placed in a 200 ml autoclave. The mixture was stirred at room temperature for 2 days under a hydrogen pressure of 10 kg/cm2. A catalyst was filtered away and a filtrate was concentrated. Thereafter, the residue was purified by silica gel column chromatography (eluent: toluene/ethyl acetate=3/2) to obtain 2.3 g of 2,3-difluoro-4'-[8,8-bis(6-hydroxyhexyl)octyl]oxybiphenyl (Y: 93.6%). The compound thus obtained had a purity of 98.8% by HPLC.

reactant | 2,3-difluoro-4'-[8,8-bis(6-benzyloxyhexyl)-6-octene-1-yl]oxybiphenyl | 3.3 g | FC1=C(C=CC=C1F)C1=CC=C(C=C1)OCCCCCC=CC(CCCCCCOCC1=CC=CC=C1)CCCCCCOCC1=CC=CC=C1 | C46H58F2O3
catalyst | Pd-C | 1 g | [Pd] | Pd
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2,3-difluoro-4'-[8,8-bis(6-hydroxyhexyl)octyl]oxybiphenyl | 2.3 g, 93.6% | FC1=C(C=CC=C1F)C1=CC=C(C=C1)OCCCCCCCC(CCCCCCO)CCCCCCO | C32H48F2O3
